US08669114B2
3. 1-ethyl-3-methyl-2-methylene imidazoline
5.96 g (37.12 mmol) 1-ethyl-2,3-dimethyl-imidazolium chloride and 2.98 g (74.24 mmol) KH are mixed in a 250 ml flask in a glove box. 100 ml THF is added to the solution, and this is stirred for 60 h at room temperature. The reaction mixture obtained is filtrated over celite, and all components which are volatile at room temperature are condensed from the solution. Subsequently, the product is distilled at 160° C./0.1 mbar in a Schlenk tube cooled with nitrogen. Yield: approx. 70% (colorless liquid extremely sensitive to humidity, which quickly colors yellow under partial decomposition at room temperature).

reactant | 1-ethyl-2,3-dimethyl-imidazolium chloride | 37.12 mmol, 5.96 g | [Cl-].C(C)[N+]1=C(N(C=C1)C)C
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-ethyl-3-methyl-2-methylene imidazoline | Yield: approx. 70% | C(C)N1C(N(CC1)C)=C | C7H14N2
